US05859051
Step C: Preparation of 2-propyl-3-(2-ethyl-2-oxoethoxy)phenol
A solution of 2-allyl-3-(2-ethyl-2-oxoethoxy)phenol (480 mg) in ethyl acetate (25 mL) was treated with 10% palladium (75 mg) on carbon catalyst. The mixture was shaken under a hydrogen atmosphere (40 psi) for two hours. The mixture was filtered through Celite and concentrated to get the title compound.

reactant | 2-allyl-3-(2-ethyl-2-oxoethoxy)phenol | 480 mg | C(C=C)C1=C(C=CC=C1OCC(=O)CC)O | C13H16O3
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium | 75 mg | [Pd] | Pd
product | 2-propyl-3-(2-ethyl-2-oxoethoxy)phenol | C(CC)C1=C(C=CC=C1OCC(=O)CC)O | C13H18O3
